US04125732
Methyl (α,α,α-Trifluoro-p-tolyloxy){p-[2-(α,α,α-trifluoro-p-tolyloxy)propoxy]phenyl}acetate
As described in Example 71, methyl bromo{p-[2-(α,α,α-trifluoro-p-tolyloxy)propoxy]phenyl}acetate (0.017 mole) is reacted with 2.75 g of α,α,α-trifluoro-p-cresol in 75 ml of tetrahydrofuran at 80° C. for 24 hrs to give the product as a viscous oil.

reactant | methyl bromo{p-[2-(α,α,α-trifluoro-p-tolyloxy)propoxy]phenyl}acetate | 0.017 mole | BrC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(F)(F)F | C19H18BrF3O4
reactant | α,α,α-trifluoro-p-cresol | 2.75 g | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Methyl (α,α,α-Trifluoro-p-tolyloxy){p-[2-(α,α,α-trifluoro-p-tolyloxy)propoxy]phenyl}acetate | FC(C1=CC=C(C=C1)OC(C(=O)OC)C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)C(F)(F)F)(F)F | C26H22F6O5
